US04180583
1-[4-(p-tert-Butylphenyl)-3-butenyl]-4-(diphenylmethylene)-piperidine hydrochloride
A mixture of 63.4 g (0.134 mole) of α-(p-tert-butylphenyl)-4-(α-hydroxy-α-phenylbenzyl)-1-piperidinebutanol hydrochloride, 400 ml of 37% HCl, and 250 ml of butanone was refluxed under a nitrogen atmosphene for 17 hours. The solvent and excess acid were removed under vacuum. The mixture was extracted into toluene, and a precipitate formed upon addition of ether. After cooling, the precipitate was collected by filtration, washed with ether and recrystallized from ethyl acetate to give the desired product, M.P. 224°-231° C.

reactant | α-(p-tert-butylphenyl)-4-(α-hydroxy-α-phenylbenzyl)-1-piperidinebutanol hydrochloride | 0.134 mole, 63.4 g | Cl.C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)O
reactant | HCl | 400 ml | Cl | ClH
solvent | butanone | 250 ml | CC(CC)=O | C4H8O
product | 1-[4-(p-tert-Butylphenyl)-3-butenyl]-4-(diphenylmethylene)-piperidine hydrochloride | Cl.C(C)(C)(C)C1=CC=C(C=C1)C=CCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C32H37N.ClH/c1-32(2,3)30-19-17-26(18-20-30)12-10-11-23-33-24-21-29(22-25-33)31(27-13-6-4-7-14-27)28-15-8-5-9-16-28;/h4-10,12-20H,11,21-25H2,1-3H3;1H
